
subckt nmos4_18 B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_n2svt l=l nfin=w nf=nf m=1
ends nmos4_18

subckt nmos4_svt B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_n1svt l=l nfin=w nf=nf m=1
ends nmos4_svt

subckt nmos4_lvt B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_n1lvt l=l nfin=w nf=nf m=1
ends nmos4_lvt

subckt nmos4_hvt B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_n1hvt l=l nfin=w nf=nf m=1
ends nmos4_hvt

subckt nmos4_standard B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_n1svt l=l nfin=w nf=nf m=1
ends nmos4_standard

subckt nmos4_fast B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_n1lvt l=l nfin=w nf=nf m=1
ends nmos4_fast

subckt nmos4_low_power B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_n1hvt l=l nfin=w nf=nf m=1
ends nmos4_low_power

subckt pmos4_18 B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_p2svt l=l nfin=w nf=nf m=1
ends pmos4_18

subckt pmos4_svt B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_p1svt l=l nfin=w nf=nf m=1
ends pmos4_svt

subckt pmos4_lvt B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_p1lvt l=l nfin=w nf=nf m=1
ends pmos4_lvt

subckt pmos4_hvt B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_p1hvt l=l nfin=w nf=nf m=1
ends pmos4_hvt

subckt pmos4_standard B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_p1svt l=l nfin=w nf=nf m=1
ends pmos4_standard

subckt pmos4_fast B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_p1lvt l=l nfin=w nf=nf m=1
ends pmos4_fast

subckt pmos4_low_power B D G S
parameters l w nf
MM0 D G S B cds_ff_mpt_p1hvt l=l nfin=w nf=nf m=1
ends pmos4_low_power

subckt res_metal_1 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm1  l=l w=w
ends res_metal_1

subckt res_metal_2 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm2  l=l w=w
ends res_metal_2

subckt res_metal_3 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm3  l=l w=w
ends res_metal_3

subckt res_metal_4 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm4  l=l w=w
ends res_metal_4

subckt res_metal_5 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm5  l=l w=w
ends res_metal_5

subckt res_metal_6 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm6  l=l w=w
ends res_metal_6

subckt res_metal_7 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm7  l=l w=w
ends res_metal_7

subckt res_metal_8 MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_resm8  l=l w=w
ends res_metal_8

subckt res_standard MINUS PLUS
parameters l w
RR0 PLUS MINUS cds_ff_mpt_rspp l=l w=w
ends res_standard

subckt ideal_balun d c p n
    K0 d 0 p c transformer n1=2
    K1 d 0 c n transformer n1=2
ends ideal_balun
